US07683185B2
(2E,4E)-5-(5-Dimethylamino-benzo[b]thiophen-2-yl)-penta-2,4dienoic acid ethyl ester (41a).
To a mixture of sodium hydride (60% in mineral oil, 128 mg, 3.2 mmol) in ethylene glycol dimethyl ether (4 mL) was added dropwise at 0° C. a solution of triethyl phosphonocrotonate (800 mg, 3.2 mmol) in ethylene glycol dimethyl ether (2 mL). The mixture was stirred at room temperature for 45 min. A solution of 5-dimethylamino-benzo[b]thiophene-2-carboxaldehyde (596 mg, 2.9 mmol) in ethylene glycol dimethyl ether (5 mL) was added in dropwise manner. The mixture was stirred at reflux for 90 min, cooled to room temperature and diluted by addition of ethyl acetate (50 mL). The mixture was washed with water (3×25 mL) and brine (25 mL), dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give an oil, that was purified by flash chromatography (10:90:1 ethyl acetate:40-60° C. petroleum ether:triethylamine) to give a solid that was recrystallised from ethanol to give the title compound (567 mg, 65%) as a solid, mp 140-142° C.

reactant | sodium hydride | 3.2 mmol, 128 mg | [H-].[Na+]
reactant | 5-dimethylamino-benzo[b]thiophene-2-carboxaldehyde | 2.9 mmol, 596 mg | CN(C1=CC2=C(SC(=C2)C=O)C=C1)C | C11H11NOS
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | ethylene glycol dimethyl ether | 4 mL | COCCOC | C4H10O2
reactant | ethylene glycol dimethyl ether | 2 mL | COCCOC | C4H10O2
reactant | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
product | (2E,4E)-5-(5-Dimethylamino-benzo[b]thiophen-2-yl)-penta-2,4dienoic acid ethyl ester | 567 mg, 65% | C(C)OC(\C=C\C=C\C1=CC2=C(S1)C=CC(=C2)N(C)C)=O | C17H19NO2S
